US06204255B1
166 g (1 mole) sodium valproate and 120 g (moisture content 14%, 0.09 mole) β-cyclodextrin are blended and 60 mL water is added. The ingredients are thoroughly kneaded and the product is obtained by drying and grinding as described in Example 1. (The weight ratio of the drug to cyclodextrin is 1:0.62) The moisture absorption after 24 hour storage at 40° C. under 75% relative humidity was found to be 36%, compared to 70% and 47% of sodium valproate itself and of the product obtained in a similar way with lactose instead of β-cyclodextrin, respectively. The latter two were liquified.

reactant | sodium valproate | 1 mole, 166 g | C(C(CCC)CCC)(=O)[O-].[Na+]
reactant | β-cyclodextrin | 0.09 mole, 120 g | C([C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)CO)CO)CO)CO)CO)CO)O)O)O | C42H70O35
solvent | water | 60 mL | O | H2O
product | lactose | OC1[C@H](O)[C@@H](O)[C@H](O[C@H]2[C@H](O)[C@@H](O)[C@@H](O)[C@H](O2)CO)[C@H](O1)CO | C12H22O11
